US08138197B2
6-(5-Oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride
A suspension of 437 mg of tert-butyl 4-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate in 10 mL of 4N HCl in dioxane was stirred at rt for 1d, the resultant white solid was filtered, and washed with ether. The collected white solid was dried in vacuo at 50° C. to give the intended compound as a colorless solid.

reactant | tert-butyl 4-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 437 mg | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C20H23N3O6
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(5-Oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | Cl.O=C1NC(=NO1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | InChI=1S/C15H15N3O4.ClH/c19-11-8-15(3-5-16-6-4-15)21-12-2-1-9(7-10(11)12)13-17-14(20)22-18-13;/h1-2,7,16H,3-6,8H2,(H,17,18,20);1H
